US04254127
A mixture of 3.92 parts of 1-(2-chloroethyl)-1,3-dihydro-2H-benzimidazol-2-one, 5.4 parts of 1-(4-methoxyphenyl)-2-(4-piperidinyl)ethanone hydrochloride, 5.3 parts of sodium carbonate, 0.1 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is distilled azeotropically to dry overnight. After cooling, the precipitated product is filtered off, washed with water and dissolved in trichloromethane. The latter is dried, filtered and evaporated. The residue is crystallized from 2-propanol, yielding 2.9 parts (36.5%) of 1,3-dihydro-1-[2-[4-[2-(4-methoxyphenyl)-2-oxoethyl]-1-piperidinyl]ethyl]-2H-benzimidazol-2-one; mp. 155.9° C.

reactant | 1-(2-chloroethyl)-1,3-dihydro-2H-benzimidazol-2-one | ClCCN1C(NC2=C1C=CC=C2)=O | C9H9ClN2O
reactant | 1-(4-methoxyphenyl)-2-(4-piperidinyl)ethanone hydrochloride | Cl.COC1=CC=C(C=C1)C(CC1CCNCC1)=O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1,3-dihydro-1-[2-[4-[2-(4-methoxyphenyl)-2-oxoethyl]-1-piperidinyl]ethyl]-2H-benzimidazol-2-one | 36.5% | COC1=CC=C(C=C1)C(CC1CCN(CC1)CCN1C(NC2=C1C=CC=C2)=O)=O | C23H27N3O3
